US08871753B2
Step D: 3-[(5-Chloro-2-{[3-(hydroxymethyl)phenyl]amino}pyrimidin-4-yl)amino]phenol
The desired compound was prepared according to the procedure of Example D5, step B, using 2,5-dichloro-N-[3-(tetrahydro-2H-pyran-2-yloxy)phenyl]pyrimidin-4-amine and 3-aminobenzyl alcohol as the starting materials in 53% yield. LCMS for C17H16ClN4O2 (M+H)+: m/z=343.0.

reactant | 2,5-dichloro-N-[3-(tetrahydro-2H-pyran-2-yloxy)phenyl]pyrimidin-4-amine | ClC1=NC=C(C(=N1)NC1=CC(=CC=C1)OC1OCCCC1)Cl | C15H15Cl2N3O2
reactant | 3-aminobenzyl alcohol | NC=1C=C(CO)C=CC1 | C7H9NO
product | 3-[(5-Chloro-2-{[3-(hydroxymethyl)phenyl]amino}pyrimidin-4-yl)amino]phenol | 53% yield | ClC=1C(=NC(=NC1)NC1=CC(=CC=C1)CO)NC=1C=C(C=CC1)O | C17H15ClN4O2
